US04800201
Preparation of 2-(4-hydroxyphenyl)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one
Silica gel (Wakogel C-200, 40 mg) was added as catalyst to a solution of 2-(3-chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one (0.98 g) and phenol (0.51 g) in acetonitrile (20 ml) and the mixture was stirred at 50° C. for 35 hours. The mixture was chromatographed on silica gel (Wakogel C-200) column, using chloroform-acetonitrile (=5:1) as an eluant. The residue was recrystallized from ethanol to give the titled compound (0.19 g, yield 23.4%) as pale yellow powder.

reactant | 2-(3-chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 0.98 g | ClC=1C=C(C(=O)OC2SC(=C(NC2=O)C)C2=CC=NC=C2)C=CC1 | C17H13ClN2O3S
reactant | phenol | 0.51 g | C1(=CC=CC=C1)O | C6H6O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(4-hydroxyphenyl)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 0.19 g, yield 23.4% | OC1=CC=C(C=C1)C1SC(=C(NC1=O)C)C1=CC=NC=C1 | C16H14N2O2S
